US05665718
10 ml of hydrazine hydrate were added to a suspension of 6.0 g (19.8 mmol) of ethyl (S)-8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepine-1-carboxylate in 50 ml of ethanol and the mixture was heated at reflux for 3 hours. After cooling to 0° the crystals obtained were filtered off and there were obtained 5.6 g (98%) of S)-8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno-[3,2-e][1,4]diazepine-1-carboxylic acid hydrazide as colourless needles of m.p. 260°-263°.

reactant | hydrazine hydrate | 10 ml | O.NN
reactant | ethyl (S)-8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepine-1-carboxylate | 19.8 mmol, 6.0 g | O=C1C2=C(N3C([C@H]4N1CC4)=C(N=C3)C(=O)OCC)C=CS2 | C14H13N3O3S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno-[3,2-e][1,4]diazepine-1-carboxylic acid hydrazide | O=C1C2=C(N3C(C4N1CC4)=C(N=C3)C(=O)NN)C=CS2 | C12H11N5O2S
